US04288437
(E)-2-[(Amino)-(2-pyridinyl)methylene]-benzo[b]thiophen-3-(2H)-one
Prepared as in Example 1 from (3-hydroxybenzo-[b]thien-2-yl)-2-pyridinyl-methanone, phosphorus(V) chloride and concentrated ammonia with a yield of 27% of theory. M.p. 128°-130° C. (ethyl acetate) C14H10N2OS (254.30): Calc.: C-66.12%; H-3.96%; N-11.02%; S-12.61%; Found: C-66.34%; H-4.09%; N-11.45%; S-12.70%.

reactant | (3-hydroxybenzo-[b]thien-2-yl)-2-pyridinyl-methanone | OC=1C2=C(SC1C(=O)C1=NC=CC=C1)C=CC=C2 | C14H9NO2S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ammonia | N | H3N
product | (E)-2-[(Amino)-(2-pyridinyl)methylene]-benzo[b]thiophen-3-(2H)-one | yield of 27% | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=NC=CC=C2 | C14H10N2OS
